US05602253
(iii) 3-(N-tert-butyloxycarbonylaminomethyl) azetidine
3.4 g (9.6 mmol) of 3-(N-tert-butyloxycarbonylaminomethyl)-1-benzhydryl azetidine was dissolved in 170 mL MeOH and hydrogenated over 0.30 g Pd(OH)2 at 5 MPa over night. The catalyst was filtered off and the solvent evaporated. The crude product was purified by flash chromatography using MeOH/CH2Cl2, 1/9, followed by MeOH (saturated with NH3 (g))/CH2Cl2, 1/9, as eluent to yield 1.2 g (67%) of the title compound.

reactant | 3-(N-tert-butyloxycarbonylaminomethyl)-1-benzhydryl azetidine | 9.6 mmol, 3.4 g | C(C)(C)(C)OC(=O)NCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2O2
solvent | MeOH | 170 mL | CO | CH4O
catalyst | Pd(OH)2 | 0.30 g | [OH-].[OH-].[Pd+2]
product | 3-(N-tert-butyloxycarbonylaminomethyl) azetidine | 1.2 g, 67% | C(C)(C)(C)OC(=O)NCC1CNC1 | C9H18N2O2
